US07199243B2
5-amino-2-methylanisole (8.05 g, 58.7 mmol) was dissolved in 244 mL water and 8.1 mL concentrated H2SO4 and cooled to 0° C. NaNO2 (4.86 g, 70.4 mmol) in 61 mL water was added dropwise with stirring. Reaction was stirred 30 minutes at 0° C. Urea (0.70 g, 11.7 mmol) was added and stirring continued for an additional 30 minutes. The pale yellow solution was transferred to a dropping funnel and added slowly to a stirred solution of potassium iodide (19.48 g, 117.4 mmol) in 122 mL water. The solution was stirred at ambient temperature for 1 h after completion of the addition. The reaction was extracted with diethyl ether (3×300 mL). The organic extracts were combined and washed with 1M Na2S2O3 (2×200 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield 9.60 g (66%) of 5-iodo-2-methyl anisole as a brown oil.

reactant | 5-amino-2-methylanisole | 58.7 mmol, 8.05 g | NC=1C=CC(=C(C1)OC)C | C8H11NO
reactant | H2SO4 | 8.1 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 70.4 mmol, 4.86 g | N(=O)[O-].[Na+]
reactant | Urea | 11.7 mmol, 0.70 g | NC(=O)N | CH4N2O
reactant | potassium iodide | 117.4 mmol, 19.48 g | [I-].[K+]
solvent | water | 244 mL | O | H2O
solvent | water | 61 mL | O | H2O
solvent | water | 122 mL | O | H2O
product | 5-iodo-2-methyl anisole | 9.60 g, 66% | IC=1C=CC(=C(C1)OC)C | C8H9IO
